US06872515B2
7-2 Synthesis of Sodium Monodecyl Mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)sulfosuccinate (FS-312)
Monodecyl mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)maleate (48.0 g, 90 mmol), sodium hydrogensulfite (10.4 g, 99 mmol) and water/ethanol (50 mL, 1/1 (v/v)) were mixed and refluxed for 5 hours with heating. Then, the reaction mixture was added with ethyl acetate, and the organic phase was washed with a saturated sodium chloride aqueous solution. The organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was recrystallized from acetonitrile to obtain the target compound (12.5 g, yield: 22%) as colorless transparent solid.

reactant | Monodecyl mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)maleate | 90 mmol, 48.0 g | FC(CC/C(/C(=O)OCCCCCCCCCC)=C/C(=O)[O-])(C(C(C(F)(F)F)(F)F)(F)F)F
reactant | sodium hydrogensulfite | 99 mmol, 10.4 g | S(=O)(O)[O-].[Na+]
reactant | water ethanol | 50 mL | O.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Sodium Monodecyl Mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)sulfosuccinate | 12.5 g, yield: 22% | FC(CCC(C(=O)OCCCCCCCCCC)(CC(=O)[O-])S(=O)(=O)O)(C(C(C(F)(F)F)(F)F)(F)F)F.[Na+] | InChI=1S/C20H29F9O7S.Na/c1-2-3-4-5-6-7-8-9-12-36-15(32)16(13-14(30)31,37(33,34)35)10-11-17(21,22)18(23,24)19(25,26)20(27,28)29;/h2-13H2,1H3,(H,30,31)(H,33,34,35);/q;+1/p-1
